US09351965B2
A solution of sodium nitrite (2 mmol, 138 mg) in water (3 mL) was added dropwise to a solution of TFA salt of (3-(2,5-difluorophenoxy)piperidin-3-yl)methanol (1 mmol, 243 mg) in acetic acid (5 mL) and water (2 mL) at room temperature. The reaction mixture was stirred at room temperature for 2 hour, and then heated to 60° C. and stirred for 4 hours. The reaction mixture was cooled to room temperature. Sodium hydroxide aqueous solution was added to adjust the pH of the solution slightly basic. The organics were extracted with EtOAc. The product, (3-(2,5-difluorophenoxy)-1-nitrosopiperidin-3-yl)methanol, was obtained after removal of the solvent.

reactant | sodium nitrite | 2 mmol, 138 mg | N(=O)[O-].[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (3-(2,5-difluorophenoxy)piperidin-3-yl)methanol | 1 mmol, 243 mg | FC1=C(OC2(CNCCC2)CO)C=C(C=C1)F | C12H15F2NO2
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | water | 3 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | (3-(2,5-difluorophenoxy)-1-nitrosopiperidin-3-yl)methanol | FC1=C(OC2(CN(CCC2)N=O)CO)C=C(C=C1)F | C12H14F2N2O3
